US09303041B2
Succinic acid 2,5-dioxo-pyrrolidin-1-yl ester methyl ester
To a solution of 1-hydroxy-pyrrolidine-2,5-dione (1.23 mL, 10 mmol) in ethyl acetate (50 mL) was added 3-chlorocarbonyl-propionic acid methyl ester (1.15 g, 10 mmol). The mixture was cooled in an ice bath. Triethylamine (1.4 mL, 10 mmol) was added dropwise. The resulting suspension was stirred for 10 min in an ice bath and for 5 min without ice bath. The white solid was removed by filtration and washed with ethyl acetate (3×3 mL). The filtrate was concentrated to a white solid (2.32 g).

reactant | 1-hydroxy-pyrrolidine-2,5-dione | 10 mmol, 1.23 mL | ON1C(CCC1=O)=O | C4H5NO3
reactant | 3-chlorocarbonyl-propionic acid methyl ester | 10 mmol, 1.15 g | COC(CCC(=O)Cl)=O | C5H7ClO3
reactant | Triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | Succinic acid 2,5-dioxo-pyrrolidin-1-yl ester methyl ester | COC(CCC(=O)ON1C(CCC1=O)=O)=O | C9H11NO6
